US04820834
1,3-Dihydro-3-(RS)-(4-chlorophenylcarbonyl)amino-5-phenyl-2H-1,4-benzodiazepin-2-one
1,3-Dihydro-3-(RS)-amino-5-phenyl-2H-1,4-benzodiazepin-2-one (500 mg, 1.98 mmole) and p-chlorobenzoyl chloride (255 μl, 2.00 mmole) were combined at room temperature in 30 ml of methylene chloride. The resulting solution was protected from moisture and stirred at room temperature overnight. The reaction mixture was diluted with 70 ml of methylene chloride and washed with sodium bicarbonate solution (sat.) and brine. The organic extracts were dried (MgSO4) and concentrated to give the crude product. Trituration with ether afforded the analytical sample as a white solid.

reactant | 1,3-Dihydro-3-(RS)-amino-5-phenyl-2H-1,4-benzodiazepin-2-one | 1.98 mmole, 500 mg | NC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=O | C15H13N3O
reactant | p-chlorobenzoyl chloride | 2.00 mmole, 255 μl | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | ether | CCOCC | C4H10O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | 1,3-Dihydro-3-(RS)-(4-chlorophenylcarbonyl)amino-5-phenyl-2H-1,4-benzodiazepin-2-one | ClC1=CC=C(C=C1)C(=O)NC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=O | C22H16ClN3O2
